US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-ethylpiperazin-1-yl)benzamide
Trimethylaluminium (2M in toluene, 1.51 mL, 3.02 mmol) was added dropwise to 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (299 mg, 1.21 mmol) and methyl 4-(4-ethylpiperazin-1-yl)benzoate (300 mg, 1.21 mmol) in toluene (6.0 mL) at 25° C. The resulting suspension was stirred at 60° C. for 24 h under nitrogen. The reaction mixture was added to methanol (100 mL) and was treated with HCl (2N aqueous solution, until the pH was 7 or lower). The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford impure product. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 5% 7M NH3/MeOH in DCM. Pure fractions were evaporated to dryness to afford the title compound (288 mg, 51%) as a cream solid.

reactant | Trimethylaluminium | 3.02 mmol, 2M, 1.51 mL | C[Al](C)C
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1.21 mmol, 299 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | methyl 4-(4-ethylpiperazin-1-yl)benzoate | 1.21 mmol, 300 mg | C(C)N1CCN(CC1)C1=CC=C(C(=O)OC)C=C1 | C14H20N2O2
reactant | HCl | Cl | ClH
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 mL | CO | CH4O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-ethylpiperazin-1-yl)benzamide | 288 mg, 51% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1CCN(CC1)CC)=O | C26H33N5O3
